US06605604B1
3-[(4-Bromophenoxy)methyl]-4-penten-1-ol
80 mmol (17.4 g) of caesium carbonate are added to a solution, cooled to 0° C., of 80 mmol (10 g) of trans-1,4-dichloro-2-butene and 53.3 mmol (9.23 g) of para-bromophenol in 500 ml of acetonitrile, and then the mixture is stirred at ambient temperature for 4 days. The mixture is hydrolysed with 250 ml of a saturated aqueous solution of ammonium chloride and then extracted with ethyl acetate. The organic phases are combined and washed with a saturated aqueous solution of sodium chloride and then dried over magnesium sulphate. After evaporation, the expected product is obtained following purification by chromatography on silica gel using a 98:2 petroleum ether/ethyl acetate mixture as eluant.

reactant | caesium carbonate | 80 mmol, 17.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trans-1,4-dichloro-2-butene | 80 mmol, 10 g | ClC\C=C\CCl | C4H6Cl2
reactant | para-bromophenol | 53.3 mmol, 9.23 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 3-[(4-Bromophenoxy)methyl]-4-penten-1-ol | BrC1=CC=C(OCC(CCO)C=C)C=C1 | C12H15BrO2
